* Source: https://sourceforge.net/p/ngspice/dis...
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt UA741    1  2  3  4  5  ic=0
C1   11 12 4.664p ic={ic}
C2    6  7 20.00p ic={ic}
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 10.61MEG -10u 10MEG 10MEG -10MEG
GA    6  0 11 12 137.7u
GCM   0  6 10 99 2.574n
IEE  10  4 DC 10.16u
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0k
RC1   3 11 7.957k
RC2   3 12 7.957k
RE1  13 10 2.740k
RE2  14 10 2.740k
REE  10 99 19.69MEG
RO1   8  5 150
RO2   7 99 150
RP    3  4 18.11k
VB    9  0 DC 0
VC    3 53 DC 2.600
VE   54  4 DC 2.600
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.model DX D(IS=800.0E-18)
.model QX NPN(IS=800.0E-18 BF=62.50)
.ends